US08222414B2
[(1S,2R)-1-benzyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-hydroxy-propyl]carbamic acid t-butyl ester
(1R,2S)-(3-amino-1-benzyl-2-hydroxy-propyl)-carbamic acid t-butyl ester (1.4 g, 5 mmol) prepared in Preparation 103 was dissolved in DMF (20 mL), to which was added phthalic anhydride (735 mg, 5 mmol). Et3N (1.4 mL, 10 mmol) was added thereto, and the mixture was stirred for 24 h at 801. The reaction was quenched by water, and the reaction mixture was extracted with EtOAc, and dried over MgSO4. The solvent was removed under reduced pressure, and the residue was dissolved in DCM. TFA was added thereto, and the mixture was stirred for 2 h at room temperature. After completion of the reaction, the solvent was removed under reduced pressure. The residue was recrystallized from DCM/Hex to give the title compound (1.18 g, Yield 71%).

reactant | (1R,2S)-(3-amino-1-benzyl-2-hydroxy-propyl)-carbamic acid t-butyl ester | 5 mmol, 1.4 g | C(C)(C)(C)OC(N[C@@H]([C@H](CN)O)CC1=CC=CC=C1)=O | C15H24N2O3
reactant | phthalic anhydride | 5 mmol, 735 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | Et3N | 10 mmol, 1.4 mL | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [(1S,2R)-1-benzyl-3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-hydroxy-propyl]carbamic acid t-butyl ester | 1.18 g, Yield 71% | C(C)(C)(C)OC(N[C@H]([C@@H](CN1C(C2=CC=CC=C2C1=O)=O)O)CC1=CC=CC=C1)=O | C23H26N2O5
